US06919356B2
Part E: Preparation of trans-3-azidomethyl-1-[2-(4-fluorophenyl)-ethyl]-4-methylpiperidine
A mixture of methanesulfonic acid trans-{l-[2-(4-fluorophenyl)ethyl]-4-methylpiperidin-3-ylmethyl} ester (the crude material from Part D, about 1.0 mmol) and sodium azide (195 mg, 3 mmol) in N,N-dimethylformamide (4 mL) was stirred at 50° C. for 28 hours. The mixture was cooled to room temperature, filtered, and the solid was rinsed with ethyl acetate. The combined filtrates were diluted with ethyl acetate, and the resulting solution was washed twice with water, dried over sodium sulfate, and concentrated under vacuum. The residue was an orange oil (252 mg, 91%) which was used without further purification. 1H NMR (300 MHz, CDCl3) δ7.17 (m, 2H), 6.98 (t, J=9 Hz, 2H), 3.50 (dd, J=12, 3 Hz, 1H), 3.25 (dd, J=12, 8 Hz, 1H), 3.08 (dm, J=10 Hz, 1H), 3.00 (dm, J=11 Hz, 1H), 2.83 (m, 2H), 2.60 (m, 2H), 2.04 (m, 1H), 1.88 (t, J=11 Hz, 1H), 1.71 (m, 1H), 1.60 (m, 1H), 1.5-1.3 (m, 2H), 1.00 (d, J=7 Hz, 3H).

reactant | methanesulfonic acid trans-{l-[2-(4-fluorophenyl)ethyl]-4-methylpiperidin-3-ylmethyl} ester | FC1=CC=C(C=C1)CCN1C[C@H]([C@@H](CC1)C)COS(=O)(=O)C | C16H24FNO3S
reactant | sodium azide | 3 mmol, 195 mg | [N-]=[N+]=[N-].[Na+]
solvent | N,N-dimethylformamide | 4 mL | CN(C=O)C | C3H7NO
product | trans-3-azidomethyl-1-[2-(4-fluorophenyl)-ethyl]-4-methylpiperidine | N(=[N+]=[N-])C[C@@H]1CN(CC[C@H]1C)CCC1=CC=C(C=C1)F | C15H21FN4
